US09399623B2
2-(azetidin-1-yl)-6-Chloro-quinoline-5-carboxylic acid (4,4-difluoro-cyclohexylmethyl)-amide (49)
The title compound was synthesized according to the procedure described in example 1 using 2,6-dichloro-quinoline-5-carboxylic acid (4,4-difluoro-cyclohexylmethyl)-amide, DIPEA and azetidine. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.75 (1H), 7.88 (1H), 6.69 (1H), 4.49 (m, 4H), 3.24 (m, 2H), 2.40 (m, 2H), 2.04 (m, 2H), 1.85 (m, 2H), 1.74-1.76 (m, 3H), 1.27-1.30 (m, 2H). m/z: 394 [M+H].

reactant | 2,6-dichloro-quinoline-5-carboxylic acid (4,4-difluoro-cyclohexylmethyl)-amide | FC1(CCC(CC1)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)Cl)F | C17H16Cl2F2N2O
reactant | DIPEA | CCN(C(C)C)C(C)C | C8H19N
reactant | azetidine | N1CCC1 | C3H7N
product | 2-(azetidin-1-yl)-6-Chloro-quinoline-5-carboxylic acid (4,4-difluoro-cyclohexylmethyl)-amide | FC1(CCC(CC1)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)N1CCC1)F | C20H22ClF2N3O
